US06919342B2
2-tert-Butyl-4-{4-[3-(4-methyl-5-methyl-4H-[1,2,4]triazol-3-ylsulfanyl)-propyl]-piperazin-1-yl}-6-propyl-pyrimidine hydrochloride
Reaction of 1 g of 2-tert-butyl-4-[4-(3-chloro-propyl)-piperazin-1-yl]-6-propyl-pyrimidine (2.95 mmol) with 0.42 g of 4-methyl-5-methyl-4H-[1,2,4]triazole-3-thiol (3.25 mmol) yielded 0.5 g (33.6%) of title compound as a solid.

reactant | 2-tert-butyl-4-[4-(3-chloro-propyl)-piperazin-1-yl]-6-propyl-pyrimidine | 2.95 mmol, 1 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCCl)CCC | C18H31ClN4
reactant | 4-methyl-5-methyl-4H-[1,2,4]triazole-3-thiol | 3.25 mmol, 0.42 g | CN1C(=NN=C1C)S | C4H7N3S
product | 2-tert-Butyl-4-{4-[3-(4-methyl-5-methyl-4H-[1,2,4]triazol-3-ylsulfanyl)-propyl]-piperazin-1-yl}-6-propyl-pyrimidine hydrochloride | 0.5 g, 33.6% | Cl.C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CCCSC1=NN=C(N1C)C)CCC | InChI=1S/C22H37N7S.ClH/c1-7-9-18-16-19(24-20(23-18)22(3,4)5)29-13-11-28(12-14-29)10-8-15-30-21-26-25-17(2)27(21)6;/h16H,7-15H2,1-6H3;1H
